US07375125B2
To a solution of 2-methylsulfanyl-4,5-dihydro-1H-imidazole hydroiodide (1.22 g, 1.0 equiv) in CH2Cl2 (25 mL) under an atmosphere of argon at 0° C. was added triethylamine (1.5 mL, 2.2 equiv) and then 3-methoxybenzoyl chloride (0.78 mL, 1.1 equiv) dropwise. Thereaction mixture was allowed to warm to room temperature and stir for 24 hr. After concentration, the resulting residue was diluted with EtOAc (50 mL) and hexane (50 mL). The mixture was filtered and then the filtrate concentrated and dried under vacuum to give a quantitative yield of (3-methoxyphenyl)-(2-methylsulfanyl-4,5-dihydroimidazol-1-yl)-methanone which was used directly in the next step.

reactant | 2-methylsulfanyl-4,5-dihydro-1H-imidazole hydroiodide | 1.22 g, 1.0 equiv | I.CSC=1NCCN1
reactant | triethylamine | 1.5 mL, 2.2 equiv | C(C)N(CC)CC | C6H15N
reactant | 3-methoxybenzoyl chloride | 0.78 mL, 1.1 equiv | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (3-methoxyphenyl)-(2-methylsulfanyl-4,5-dihydroimidazol-1-yl)-methanone | quantitative yield | COC=1C=C(C=CC1)C(=O)N1C(=NCC1)SC | C12H14N2O2S
